US05871755
10 g of N-(ortho-toluyl)aspartic acid are disolved in 20 ml of methanol in a 500 ml, three-necked, round-bottomed flask equipped with a thermometer, a dropping funnel and a reflux condenser. After having completely dissolved, 28.5 ml of an aqueous sodium hypochlorite solution, assaying at 1.40 mol/l, are added dropwise while maintaining the temperature below 20 °C. At the end of the addition, the mixture is diluted with 180 ml of methanol before being brought to reflux for 1 h 30 minutes. After concentrating under vacuum, the residue is taken up in ethyl acetate and extracted with an aqueous sodium bicarbonate solution. The aqeuous phase is acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with brine before being dried and concentrated under vacuum to provide an oil which crystallizes on addition of water. The precipitate formed is filtered and purified by recrystallization from water (a few drops of methanol are added, if necessary) to provide 2.65 g of N-(ortho-toluyl) dehydroalanine. (Nonoptimized yield 32%).

reactant | N-(ortho-toluyl)aspartic acid | 10 g | C1(=C(C=CC=C1)N[C@@H](CC(=O)O)C(=O)O)C | C11H13NO4
reactant | sodium hypochlorite | 28.5 ml | Cl[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 180 ml | CO | CH4O
product | N-(ortho-toluyl) dehydroalanine | 2.65 g, yield 32% | C1(=C(C=CC=C1)NC(=C)C(=O)O)C | C10H11NO2
